US08466122B2
A solution of (9Z,12Z)-octadeca-9,12-dienal (1.06 g, 4.0 mmol) and N,N-dimethylpropane-1,3-diamine (408 mg, 4.0 mmol) in anhydrous tetrahydrofuran (15 mL) was stirred under nitrogen for 15 minutes then sodium triacetoxyborohydride (1.7 g, 8.0 mmol). The solution was stirred for 2 hours at room temperature. Upon completion, the solution was diluted with ethyl acetate (20 mL) and washed with sodium bicarbonate (2×15 mL) and brine (15 mL). The ethyl acetate layer was dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The oil was purified by column chromatography on silica gel (eluted with 100% CH2Cl2 to 1/5/94 NH4OH/MeOH/CH2Cl2) to afford N,N-dimethyl-N′-((9Z,12Z)-octadeca-9,12-dienyl)propane-1,3-diamine as a colorless oil (420 mg, 30%).

reactant | (9Z,12Z)-octadeca-9,12-dienal | 4.0 mmol, 1.06 g | C(CCCCCCC\C=C/C\C=C/CCCCC)=O | C18H32O
reactant | N,N-dimethylpropane-1,3-diamine | 4.0 mmol, 408 mg | CN(CCCN)C | C5H14N2
reactant | sodium triacetoxyborohydride | 8.0 mmol, 1.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-N′-((9Z,12Z)-octadeca-9,12-dienyl)propane-1,3-diamine | 420 mg, 30% | CN(CCCNCCCCCCCC\C=C/C\C=C/CCCCC)C | C23H46N2
